US07176242B2
N1-((1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl)-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide dihydrochloride
3-[(Dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid is dissolved in DMF (10 mL), and diisopropylethylamine (364 μL, 2.1 mmol), HATU (237 mg, 0.62 mmol), (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[3-(trifluoromethyl)benzyl]amino}butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-311 (250 mg, 0.52 mmol) are added. The reaction stirred at room temperature 4 h. The reaction mixture is diluted with chloroform, washed with water, saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (2 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 689.3 [M+H]+.

reactant | 3-[(Dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1SC=CN1)CCC | C17H20N2O3S
reactant | diisopropylethylamine | 2.1 mmol, 364 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.62 mmol, 237 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[3-(trifluoromethyl)benzyl]amino}butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N1-((1S,2R)-1-(3,5-Difluorobenzyl)-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl)-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)C(F)(F)F)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2SC=CN2)=O)C=C(C1)F | InChI=1S/C35H37F5N4O3S.2ClH/c1-3-9-44(10-4-2)34(47)26-17-24(16-25(18-26)33-42-8-11-48-33)32(46)43-30(15-23-13-28(36)19-29(37)14-23)31(45)21-41-20-22-6-5-7-27(12-22)35(38,39)40;;/h5-8,11-14,16-19,30-31,41,45H,3-4,9-10,15,20-21H2,1-2H3,(H,43,46);2*1H/t30-,31+;;/m0../s1
